US04362736
To 1.9 g of ethyl 3-[(2-guanidinothiazol-4-yl)methylthio]-propionimidate was added 10 ml of an ethanol solution of 0.28 g of cyanamide and the mixture was allowed to stand overnight at room temperature. Then, the solvent was distilled off from the reaction mixture under reduced pressure and the residue obtained was purified by a silica gel column chromatography using a solvent mixture of chloroform and methanol as a developing solvent to provide 1.35 g of N-cyano-3-[(2-guanidinothiazol-4-yl)methylthio]propionamidine. The product shows the following physicochemical properties:

reactant | ethyl 3-[(2-guanidinothiazol-4-yl)methylthio]-propionimidate | 1.9 g | N(C(=N)N)C=1SC=C(N1)CSCCC(OCC)=N | C10H17N5OS2
reactant | cyanamide | 0.28 g | N#CN | CH2N2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-cyano-3-[(2-guanidinothiazol-4-yl)methylthio]propionamidine | 1.35 g | C(#N)NC(CCSCC=1N=C(SC1)NC(=N)N)=N | C9H13N7S2
